US09079897B2
Step 1: (6-Bromo-3-nitro-pyridin-2-yl)-(2-chloro-pyridin-4-yl)-amine
2-Chloro-pyridin-4-ylamine (1 eq, 6.6 mmol, 850 mg) and 2,6-dibromo-3-nitro pyridine (2 eq, 13.2 mmol, 3.85 g) are dissolved in IPA (15 ml) and heated using microwave radiation at 150° C. for 6 hours. After cooling to room temperature, triethylamine (1 eq) is added and reaction mixture is stirred for 1 hour. The majority of solvent is removed in vacuo and the residue is diluted using 6% DCM in iso-hexane (75 ml). The solvent is decanted off and the process repeated 3 times. The resulting brown solid is dissolved in DCM and excess amine is scavenged using SCX-2 resin (6 g) and discarded. The solid is triturated in hexane, DCM and IPA (50 ml of a 58:40:2 mixture) and the resulting yellow solid is collected by filtration. The solid is dissolved in DCM and washed with water. The organic portion is dried (MgSO4) and concentrated in vacuo to afford the title compound; [M+H]+ 330.

reactant | 2-Chloro-pyridin-4-ylamine | 6.6 mmol, 850 mg, 1 eq | ClC1=NC=CC(=C1)N | C5H5ClN2
reactant | 2,6-dibromo-3-nitro pyridine | 13.2 mmol, 3.85 g, 2 eq | BrC1=NC(=CC=C1[N+](=O)[O-])Br | C5H2Br2N2O2
reactant | triethylamine | 1 eq | C(C)N(CC)CC | C6H15N
solvent | IPA | 15 ml | CC(C)O | C3H8O
product | (6-Bromo-3-nitro-pyridin-2-yl)-(2-chloro-pyridin-4-yl)-amine | BrC1=CC=C(C(=N1)NC1=CC(=NC=C1)Cl)[N+](=O)[O-] | C10H6BrClN4O2
